US07060827B2
In a manner similar to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 4-ethylaniline were reacted to yield N2,N4-bis(4-ethylphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 8.83 (bs, 1H), 7.77 (d, 1H. J=3.9 Hz), 7.48 (d, 2H, J=8.7 Hz), 7.40 (d, 2H, J=8.7 Hz), 7.31 (bs, 1H), 7.18 (d, 2H, J=8.7 Hz), 7.11 (d, 2H, J=8.7 Hz), 2.68–2.61 (m, 4H), 1.28–1.21 (m, 6H); LCMS: ret. time: 29.17 min.; purity: 100%; MS (m/e): 337(MH+).

reactant | N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C16H13FN4O2
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-ethylaniline | C(C)C1=CC=C(N)C=C1 | C8H11N
product | N2,N4-bis(4-ethylphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)CC)F | C20H21FN4
